US09238631B2
Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-{[(4-methylphenyl)sulfonyl]oxy}ethoxy)pyridin-2-yl]methyl}-L-glutamate
To a solution of 150 mg di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-[(5-hydroxypyridin-2-yl)methyl]-L-glutamate (0.32 mmol) in N,N-dimethylformamide (8 mL) was added 126 mg of cesium carbonate (0.39 mmol), followed by 143 mg of 1,2-ethanediol di-p-toluenesulfonate (0.39 mmol). The mixture was stirred for 5 h at room temperature. Water was added, the mixture was extracted with dichloromethane, and the organic layer was washed with brine, dried over magnesium sulfate, and evaporated. The crude product was purified by preparative HPLC (method A) to give 86 mg (40% yield) of the title compound.

reactant | di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-[(5-hydroxypyridin-2-yl)methyl]-L-glutamate | 0.32 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)O)C(=O)OC(C)(C)C | C24H38N2O7
reactant | cesium carbonate | 0.39 mmol, 126 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-ethanediol di-p-toluenesulfonate | 0.39 mmol, 143 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C16H18O6S2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-{[5-(2-{[(4-methylphenyl)sulfonyl]oxy}ethoxy)pyridin-2-yl]methyl}-L-glutamate | 86 mg, 40% yield | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C | C33H48N2O10S
